US07829585B2
2,6-Diamino-nicotinic acid
2,6-diamino-nicotinic acid ethyl ester (2 g, 11 mmol) described in Production Example 1-1-3 was dissolved in ethanol (15 mL) followed by the addition of 1 N aqueous sodium hydroxide solution (15 mL) and stirring for 2 hours while heating under reflux. After allowing the reaction mixture to return to room temperature, the ethanol was distilled off under a reduced pressure and the residue was cooled with ice and neutralized with 1 N hydrochloric acid. After filtering the precipitated solid and washing with water, the solid was dried to obtain the title compound (1.72 g, 11 mmol, quantitative).

reactant | 2,6-diamino-nicotinic acid ethyl ester | 11 mmol, 2 g | C(C)OC(C1=C(N=C(C=C1)N)N)=O | C8H11N3O2
reactant | sodium hydroxide | 1 N, 15 mL | [OH-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2,6-Diamino-nicotinic acid | 11 mmol, 1.72 g | NC1=C(C(=O)O)C=CC(=N1)N | C6H7N3O2
